US08729105B2
Preparation of 5-(4-chlorophenyl)-6-cyclobutoxy-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-cyclobutoxy-nicotinic acid (example CA) and 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine (example AK) as starting materials; LC-MS (UV peak area/ESI) 92.8%, 451.1 (M−H)−.

reactant | 5-(4-chlorophenyl)-6-cyclobutoxy-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OC1CCC1 | C16H14ClNO3
reactant | 3-trifluoromethyl-[1,2,4]oxadiazol-5-methanamine | FC(C1=NOC(=N1)CN)(F)F | C4H4F3N3O
product | 5-(4-chlorophenyl)-6-cyclobutoxy-N-((3-(trifluoromethyl)-1,2,4-oxadiazol-5-yl)methyl)nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NC(=NO2)C(F)(F)F)C1)OC1CCC1 | C20H16ClF3N4O3
